US07932294B2
The above linker intermediate can also be prepared by the following method: Step 1: TEA (37 ml, 264 mmol) and a solution of (Boc)2O (48 g, 220 mmol) in DCM (100 mL) were added to a suspension of cystamine dihydrochloride (20 g, 88.8 mmol) in of DCM (300 mL) and stirred at RT for 15 h. The mixture was concentrated and the residue, after usual aqueous work-up and chromatographic purification, gave 30 g (96%) of tert-butyl 2-({2-[(tert-butoxycarbonyl)amino]ethyl}dithio)ethylcarbamate as a white solid. 1H-NMR (300 MHz, CDCl3): δ 1.43 (s, 18H), 2.78 (t, 4H, J=6.3 Hz), 3.44 (q, 4H, J=6.0 Hz), 5.00 (bs, 1H). MS (m/z): 353.18 [M+H]+, 375.24 [M+Na]+.

reactant | (Boc)2O | 220 mmol, 48 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | cystamine dihydrochloride | 88.8 mmol, 20 g | Cl.Cl.NCCSSCCN
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-({2-[(tert-butoxycarbonyl)amino]ethyl}dithio)ethylcarbamate | 30 g, 96% | C(C)(C)(C)OC(=O)NCCSSCCNC(OC(C)(C)C)=O | C14H28N2O4S2
